US08247401B2
Step C: N-[(1E)-(5-Fluoropyridin-2-yl)methylene]-2-methylpropane-2-sulfinamide
To a solution of 5-fluoropyridine-2-carbaldehyde (18.49 g, 148 mmol) in ethyl acetate (850 mL), THF (250 mL) and hexanes (300 mL) were added (R)-(+)-2-methyl-2-propanesulfinamide (19.71 g, 163 mmol) and anhydrous copper(II) sulfate (59.0 g, 370 mmol). The mixture was stirred at ambient temperature. After 18 h, the mixture was filtered through Celite. The filtered cake was washed with ethyl acetate and the filtrate was concentrated. Purification by silica gel chromatography (100% dichloromethane→98% dichloromethane/methanol) gave the title compound.

reactant | 5-fluoropyridine-2-carbaldehyde | 148 mmol, 18.49 g | FC=1C=CC(=NC1)C=O | C6H4FNO
reactant | (R)-(+)-2-methyl-2-propanesulfinamide | 163 mmol, 19.71 g | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | ethyl acetate | 850 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
catalyst | copper(II) sulfate | 370 mmol, 59.0 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | N-[(1E)-(5-Fluoropyridin-2-yl)methylene]-2-methylpropane-2-sulfinamide | FC=1C=CC(=NC1)\C=N\S(=O)C(C)(C)C | C10H13FN2OS
